Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Lasix / fried clams
 
Attending: ___.
 
Chief Complaint:
LUE numbness, tingling

 
Major Surgical or Invasive Procedure:
Banding left upper arm AV graft
 
History of Present Illness:
___ F ESRD on HD, s/p left upper arm AV graft in late ___, 
presents to ED with pain in her left hand distal to her fistula. 
Pt reports pain happens while she undergoes HD. Today it was 
also associated with numbness and tingling. She has experienced 
similar pain after HD before and is being considered for 
banding. 

 
Past Medical History:
1) ESRD secondary to hypertensive nephropathy, started HD ___  

2) Renal artery stenosis s/p bilateral renal artery stents  
3) HTN  
4) HLD  
5) Hypothyroidism 

PSH: left AV graft placement ___, b/l renal artery stents  

 
Social History:
___
Family History:
No family history of kidney disease. Mother with HTN.
 
Physical Exam:
On discharge:

Vitals- 

GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
Ext: LUE w/o edema, palpable thrill in graft and distal radial 
pulse, extremity slightly cooler than RUE (unchanged), Nail beds 
slightly cyanotic compared to RUE (unchanged), capillary refill 
slightly slower than RUE (unchanged)
 No ___ edema, ___ warm and well perfused

 
Pertinent Results:
___ 04:25PM   PLT COUNT-182
___ 04:25PM   NEUTS-82.0* LYMPHS-9.9* MONOS-3.3 EOS-3.6 
BASOS-1.2
___ 04:25PM   WBC-10.9 RBC-3.73*# HGB-11.5* HCT-37.2# 
MCV-100* MCH-30.7 MCHC-30.9* RDW-15.7*
___ 04:25PM   CALCIUM-9.5 PHOSPHATE-3.5 MAGNESIUM-2.0
___ 04:25PM   estGFR-Using this
___ 04:25PM   GLUCOSE-103* UREA N-25* CREAT-2.6* SODIUM-140 
POTASSIUM-4.3 CHLORIDE-99 TOTAL CO2-29 ANION GAP-16
 
Brief Hospital Course:
Mrs. ___ was admitted to the ___ Surgery service on 
___ for banding of her left upper arm AV graft. There were 
no complications and the patient tolerated the procedure well. 
After the procedure there was a palpable radial pulse and thrill 
over the graft. The patient reported resolution of her pain and 
tingling symptoms that she had prior to the procedure. On the 
morning of POD 1, she noticed a "heavy feeling" and coolness of 
her left middle finger. There was no pain or tenderness. After 
examination it was determined that she can go home with close 
follow up within one week to determine if the graft needs to be 
compeltely ligated or not and to call if her symptoms return and 
get worse. She was discharged back to her skilled nursing 
facility after a session of HD in the morning of POD 1 and when 
she was feeling well and tolerating regular diet.
Her asprin and plavix were restarted on POD 1.

 
Medications on Admission:
aricept 5 HS, mirtazapine 7.5 HS, levothyroxine 50', calcitriol 
0.25', captopril 12.5''', amlodipine 5', simvastatin 10', plavix 
75', asa 81', oxycodone 2.5 Q6H PRN, colace 100'', Vit D3 800', 
Vit B12 1000'   

 
Discharge Medications:
1. levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. captopril 12.5 mg Tablet Sig: One (1) Tablet PO TID (3 times 
a day).  
3. amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. donepezil 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime). 
 
6. mirtazapine 15 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime).  

7. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
8. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain: no more than 2000mg per day.  
9. oxycodone 5 mg Tablet Sig: 0.5 Tablet PO every ___ hours as 
needed for pain.
Disp:*20 Tablet(s)* Refills:*0*
10. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO once a day.  
11. Plavix 75 mg Tablet Sig: One (1) Tablet PO once a day.  
12. calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO once a 
day.  
13. Vitamin D-3 400 unit Tablet Sig: Two (2) Tablet PO once a 
day.  
14. Vitamin B-12 1,000 mcg Tablet Sig: One (1) Tablet PO once a 
day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
steal syndrome 
esrd on hemodialysis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital for banding of your left arm 
fistula because it was causing you some discomfort. Please call 
Dr. ___ office ___ if you have any of the 
warning signs listed. ___, ___ may be 
contacted
Resume your usual hemodialysis schedule via the tunnelled 
dialysis line 
****
___  ___ will be resumed

 
Followup Instructions:
___